US08138197B2
Methyl 4-bromo-3,5-diethoxybenzoate
Methyl 4-bromo-3,5-dihydroxybenzoate (10 g) was dissolved in DMF (80 mL), and potassium carbonate (13.2 g) and ethyl iodide (7.6 mL) were added to it, and stirred overnight at room temperature. The reaction liquid was poured into water with cooling with ice, extracted with ethyl acetate, the organic layer was washed with water and saturated saline water, and dried with sodium sulfate. Sodium sulfate was removed through filtration, the filtrate was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (hexane/ethyl acetate=1/0 to 90/10) to obtain the title compound as a white solid.

reactant | Methyl 4-bromo-3,5-dihydroxybenzoate | 10 g | BrC1=C(C=C(C(=O)OC)C=C1O)O | C8H7BrO4
reactant | potassium carbonate | 13.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 7.6 mL | C(C)I | C2H5I
reactant | water | O | H2O
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
product | Methyl 4-bromo-3,5-diethoxybenzoate | BrC1=C(C=C(C(=O)OC)C=C1OCC)OCC | C12H15BrO4
